US04769493
In 1.2 l of dioxane was dissolved 286 g (1 mol) of tetrachlorophthalic anhydride, and while refluxing the solution, 93 g (1 mol) of aniline was added dropwise to the solution. Thereafter, the mixture was refluxed for 2 hours. The reaction mixture was allowed to cool, whereby tabular crystals were precipitated. The crystals were collected by filtration, washed with dioxane, and dried to provide 325 g of N-phenyltetrachlorophthalimide having a melting point of 251° C. to 253° C. (yield 90%).

reactant | tetrachlorophthalic anhydride | 1 mol, 286 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | aniline | 1 mol, 93 g | NC1=CC=CC=C1 | C6H7N
solvent | dioxane | 1.2 l | O1CCOCC1 | C4H8O2
product | N-phenyltetrachlorophthalimide | 325 g, yield 90% | C1(=CC=CC=C1)N1C(C=2C(C1=O)=C(C(=C(C2Cl)Cl)Cl)Cl)=O | C14H5Cl4NO2
